* Crest Factor - Triangle (CF=1.732)
.include design.cir
VDD vdd gnd 1.8
VSS vss gnd 0
Vreset reset gnd PULSE(0 1.8 0 1n 1n 1m 1k)
Vin inp gnd PULSE(0.8 1.0 0 0.5m 0.5m 1n 1m)
Xdut inp rms_out peak_out vdd vss reset rms_crest_top
.ic V(rms_out)=0.9 V(peak_out)=0.9
.options reltol=1e-3
.tran 10u 300m uic
.control
run
wrdata tb_cf_triangle.csv v(rms_out) v(peak_out) v(inp)
quit
.endc
.end
